US08217066B2
Step 5: 1-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester (2.0 g, 5.6 mmol), 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester (1.78 g, 5.6 mmol), tetrakis(triphenylphosphine)palladium(0) (0.65 g, 0.56 mmol), and sodium bicarbonate (1.4 g, 16.8 mmol) were combined in DME (30 mL) and H2O (10 mL) and the mixture was purged with N2. The reaction was stirred at 80° C. overnight, and after aqueous workup the crude material was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | 5.6 mmol, 2.0 g | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C15H17BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | 5.6 mmol, 1.78 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
reactant | sodium bicarbonate | 16.8 mmol, 1.4 g | C([O-])(O)=O.[Na+]
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.56 mmol, 0.65 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)(C)C | C27H30N2O5
